US07482455B2
A suspension of 2-(2-Chloro-phenylamino)-7-hydroxy-quinoline-3-carboxylic acid phenylamide (17 mg, 0.04 mmol) in 16N aqueous HCl (0.1 ml) and 1,4-Dioxane (0.1 ml) was heated at reflux for 5 days. After evaporating the solvent, the residue was recrystallized from methanol to give 2-(2-Chloro-phenylamino)-7-hydroxy-quinoline-3-carboxylic acid as the white crystal; 13 mg (99%). 1H NMR (400 MHz, DMSO-d6) ppm 6.96 (dd, 1H, J=2.3, 8.6 Hz), 6.99 (d, 1H. J=2.3 Hz), 7.04 (ddd, 1H, J=1.5, 7.8, 8.8 Hz), 7.40 (ddd, 1H, J=1.5, 7.8, 8.8 Hz), 7.52 (dd, 1H, J=1.5, 7.8 Hz), 7.83 (d, 1H, J=8.8 Hz), 8.84 (s, 1H), 9.10 (d, 1H, J=11.2 Hz), 10.48 (s, 1H), 11.05 (s, 1H). LC/MS: m/z 315 (M+1)+, 313 (M−1)−.

reactant | 2-(2-Chloro-phenylamino)-7-hydroxy-quinoline-3-carboxylic acid phenylamide | 0.04 mmol, 17 mg | C1(=CC=CC=C1)NC(=O)C=1C(=NC2=CC(=CC=C2C1)O)NC1=C(C=CC=C1)Cl | C22H16ClN3O2
reactant | 1,4-Dioxane | 0.1 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 16N, 0.1 ml | Cl | ClH
product | 2-(2-Chloro-phenylamino)-7-hydroxy-quinoline-3-carboxylic acid | ClC1=C(C=CC=C1)NC1=NC2=CC(=CC=C2C=C1C(=O)O)O | C16H11ClN2O3
